US04307116
7-Amino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (371 g) is dissolved in a solution of sodium bicarbonate (307 g) in a mixture of distilled water (2 liters) and dioxane (2 liters). A solution of di-tert.-butyl-dicarbonate (421 g) in dioxane (2 liters) is added in the course of 10 minutes. The reaction mixture is stirred for 48 hours at 25° C. The suspension obtained is concentrated under reduced pressure (20 mm Hg) at 50° C. to a residual volume of about 2 liters and is then diluted with ethyl acetate (1 liter) and distilled water (2 liters). The aqueous phase is decanted, washed with ethyl acetate (500 cc) and acidified to pH 2 with 6 N hydrochloric acid in the presence of ethyl acetate (1,500 cc). The aqueous phase is extracted with ethyl acetate (2×1 liter). The combined organic phases are washed with a saturated sodium chloride solution (2×250 cc) and dried over sodium sulphate. After filtration, the solvent is evaporated under reduced pressure (20 mm Hg) at 50° C. 7-tert.-Butoxycarbonylamino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (486 g) is obtained in the form of yellow crystals (m.p.=190° C., with decomposition).

reactant | 7-Amino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 371 g | NC1C2SCC(=C(N2C1=O)C(=O)O)C | C8H10N2O3S
reactant | di-tert.-butyl-dicarbonate | 421 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium bicarbonate | 307 g | C([O-])(O)=O.[Na+]
solvent | water | 2 liters | O | H2O
solvent | dioxane | 2 liters | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 liters | O1CCOCC1 | C4H8O2
product | 7-tert.-Butoxycarbonylamino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 486 g | C(C)(C)(C)OC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C | C13H18N2O5S
